US06982348B2
9) tert-butyl (1RS,2SR)-2-hydroxy-2-[4-(pyridin-2-yloxy)phenyl]-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethylcarbamate
To a solution of tert-butyl (4RS,5SR)-2-oxo-5-[4-(pyridin-2-yloxy)phenyl]-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidine-3-carboxylate (3.00 g, 5.33 mmol) in methanol (20 ml) was added a solution (12.8 ml, 6.4 mmol) of 0.5N sodium hydroxide in methanol, and the mixture was stirred at room temperature for 1 hr. To the reaction solution was added water (100 ml), and the mixture was extracted with ethyl acetate (100 ml×2). The extract was washed with saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give the objective substance (2.67 g, 93%).

reactant | tert-butyl (4RS,5SR)-2-oxo-5-[4-(pyridin-2-yloxy)phenyl]-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidine-3-carboxylate | 5.33 mmol, 3.00 g | O=C1OC(C(N1C(=O)OC(C)(C)C)CC1=CC(=CC=C1)OC(C(F)F)(F)F)C1=CC=C(C=C1)OC1=NC=CC=C1 | C28H26F4N2O6
reactant | sodium hydroxide | 6.4 mmol, 0.5N, 12.8 ml | [OH-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | tert-butyl (1RS,2SR)-2-hydroxy-2-[4-(pyridin-2-yloxy)phenyl]-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethylcarbamate | OC(C(CC1=CC(=CC=C1)OC(C(F)F)(F)F)NC(OC(C)(C)C)=O)C1=CC=C(C=C1)OC1=NC=CC=C1 | C27H28F4N2O5
